US08957089B2
76.5 1-[1-(4-Chloro-2-methoxyphenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol
7-(benzyloxy)-1-[1-(4-chloro-2-methoxyphenyl)cyclobutyl]-3,4-dihydroisoquinoline (460 mg, 1.065 mmol) were dissolved in 33% hydrobromic acid in acetic acid. The reaction mixture was stirred at room temperature for 15 min. The solvent was evaporated in vacuo. Toluene was added and evaporated in vacuo (repeated three times). The crude product was purified by flash chromatography (silica, dichloromethane then dichloromethane:methanol=4:1). Yield: 322 mg (0.942 mmol, 88%).

reactant | 7-(benzyloxy)-1-[1-(4-chloro-2-methoxyphenyl)cyclobutyl]-3,4-dihydroisoquinoline | 1.065 mmol, 460 mg | C(C1=CC=CC=C1)OC1=CC=C2CCN=C(C2=C1)C1(CCC1)C1=C(C=C(C=C1)Cl)OC | C27H26ClNO2
solvent | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[1-(4-Chloro-2-methoxyphenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol | ClC1=CC(=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)O)OC | C20H20ClNO2
